US08614215B2
Intermediate 96: 2-(Hydroxymethyl)-1-methyl-1H-imidazole-4-sulfonamide
To a stirred suspension of 2-(chloromethyl)-1-methyl-1H-imidazole-4-sulfonamide (300 mg; 1.4 mmol; 1 eq) in water (5 mL) is added potassium carbonate (300 mg; 2.2 mmol; 1.5 eq) in portions and the reaction mixture is stirred at room temperature for 2 h. THF (5 mL) is added and reaction mixture is heated up to 60° C. for 3 h. The reaction mixture is cooled down and the THF is removed under reduced pressure. The resulting suspension is freeze dried to give 320 mg (contaminated with potassium salts) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 7.58 (s, 1H), 7.10-6.40 (m, 2H), 4.18 (s, 2H), 3.68 (s, 3H). HPLC (max plot) 68%; Rt 0.96 min. LC/MS (ES+) 191.8; (ES−) 189.9.

reactant | 2-(chloromethyl)-1-methyl-1H-imidazole-4-sulfonamide | 1.4 mmol, 300 mg, 1 eq | ClCC=1N(C=C(N1)S(=O)(=O)N)C | C5H8ClN3O2S
reactant | potassium carbonate | 2.2 mmol, 300 mg, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-(Hydroxymethyl)-1-methyl-1H-imidazole-4-sulfonamide | OCC=1N(C=C(N1)S(=O)(=O)N)C | C5H9N3O3S
